US04780541
2-nitro-2'-hydroxy-5'-methylazobenzene 12.9 g was added to a mixture of methanol 60 ml, water 30 ml and 97% sodium hydroxide 12.4 g, and the resultant mixure was stirred while raising temperature to 65° C. Thereafter, the mixture was cooled to 40° C., and 9-fluorenone 0.8 g and then 80% paraformaldehyde 2.1 g were added to the mixture for 1 hour. The resultant mixture was then heated to the boiling point (75° C.), and was stirred at the boiling point for 6 hours, thus almost all of the azobenzene having disappeared to produce 2-(2-hydroxy-5-methylphenyl)benzotriazole-N-oxide.

reactant | 2-nitro-2'-hydroxy-5'-methylazobenzene | 12.9 g | [N+](=O)([O-])C1=C(C=CC=C1)N=NC1=C(C=CC(=C1)C)O | C13H11N3O3
reactant | sodium hydroxide | 12.4 g | [OH-].[Na+]
reactant | 9-fluorenone | 0.8 g | C1=CC=CC=2C3=CC=CC=C3C(C12)=O | C13H8O
reactant | paraformaldehyde | 2.1 g | C=O | CH2O
reactant | azobenzene | N(=NC1=CC=CC=C1)C1=CC=CC=C1 | C12H10N2
solvent | water | 30 ml | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | 2-(2-hydroxy-5-methylphenyl)benzotriazole-N-oxide | OC1=C(C=C(C=C1)C)N1N=C2C(=[N+]1[O-])C=CC=C2 | C13H11N3O2
